US05672697
9-[2-Deoxy-5-O-(4,4'-dimethoxytrityl)-2-fluoro-β-D-arabinofuranosyl]-N6 -benzoyladenine (54)
This compound is prepared from 9-(2-deoxy-2-fluoro-β-D-arabinofuranosyl)-N6 -benzoyladenine by the same procedure used for the preparation of N6 -benzoyl-5'-O-(4,4'-dimethoxytrityl)-2'-deoxyadenosine.

reactant | 9-(2-deoxy-2-fluoro-β-D-arabinofuranosyl)-N6 -benzoyladenine | F[C@@H]1[C@@H](O[C@@H]([C@H]1O)CO)N1C2=NC=NC(=C2N=C1)NC(C1=CC=CC=C1)=O | C17H16FN5O4
reactant | N6 -benzoyl-5'-O-(4,4'-dimethoxytrityl)-2'-deoxyadenosine | C(C1=CC=CC=C1)(=O)NC=1C=2N=CN([C@H]3C[C@H](O)[C@@H](COC(C4=CC=C(C=C4)OC)(C4=CC=C(C=C4)OC)C4=CC=CC=C4)O3)C2N=CN1 | C38H35N5O6
product | 9-[2-Deoxy-5-O-(4,4'-dimethoxytrityl)-2-fluoro-β-D-arabinofuranosyl]-N6 -benzoyladenine | COC1=CC=C(C(C2=CC=C(C=C2)OC)(C2=CC=CC=C2)OC[C@@H]2[C@H]([C@@H]([C@@H](O2)N2C3=NC=NC(=C3N=C2)NC(C2=CC=CC=C2)=O)F)O)C=C1 | C38H34FN5O6
